US07304081B2
(1R)-1′-[(1-{4-[(E)-2-Pyridin-4-ylvinyl]phenyl}cyclopropyl)-carbonyl]-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one
A mixture of POPd1 catalyst (CombiPhos Catalysts, Inc) (2 mg), (1R)-1′-{[1-(4-bromophenyl)cyclopropyl]-carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one (15 mg, 0.036 mmol), 4-vinylpyridine (19 mg, 0.18 mmol), potassium carbonate (5.5 mg, 0.04 mmol) in N,N-dimethylformamide (0.3 ml) was microwave irradiated at 135° C. for 30 minutes. Then the desired product was obtained from the mixture by prep-HPLC followe by chiral HPLC (13 mg, 82%). LCMS: m/z 437.2 (M+H)+; 459.2 (M+Na)+.

reactant | (1R)-1′-{[1-(4-bromophenyl)cyclopropyl]-carbonyl}-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | 0.036 mmol, 15 mg | BrC1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C21H18BrNO3
reactant | 4-vinylpyridine | 0.18 mmol, 19 mg | C(=C)C1=CC=NC=C1 | C7H7N
reactant | potassium carbonate | 0.04 mmol, 5.5 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
product | (1R)-1′-[(1-{4-[(E)-2-Pyridin-4-ylvinyl]phenyl}cyclopropyl)-carbonyl]-3H-spiro[2-benzofuran-1,3′-pyrrolidin]-3-one | N1=CC=C(C=C1)/C=C/C1=CC=C(C=C1)C1(CC1)C(=O)N1C[C@]2(CC1)OC(C1=C2C=CC=C1)=O | C28H24N2O3
